US05780642
3-(Imidazol-1-yl)propionaldehyde diethyl acetal (8.1 g) was converted into the free aldehyde, as described in Example 24, and then added to a mixture of 2-amino-2-methylpropanol (1.83 g) in acetonitrile (40 ml) and 4A molecular sieves (6.0 g). The mixture was reacted following the procedure of Example 24 to give 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol, m.p. 81°-85° C.

reactant | 3-(Imidazol-1-yl)propionaldehyde diethyl acetal | 8.1 g | C(C)OC(CCN1C=NC=C1)OCC | C10H18N2O2
reactant | 2-amino-2-methylpropanol | 1.83 g | NC(CO)(C)C | C4H11NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol | N1(C=NC=C1)CCCNC(CO)(C)C | C10H19N3O
